US07541482B2
A 1-liter two-necked flask equipped with a Liebig condenser and a sampling port was charged with 129 g (0.5 mol) of starting material dibutyltin oxide (manufactured by Aldrich Chemical Co., U.S.A.) and 651 g (5.0 mol) of reactant 2-ethyl-1-hexanol (manufactured by Aldrich Chemical Co., U.S.A., 99.6% anhydrous). Distillation was carried out while stirring with a stirrer by heating for 2 hours in an oil bath in which the temperature was maintained at 190° C., wherein the generated water and 2-ethyl-1-hexanol were reacted while being distilled off. After being allowed to cool, using dibutyltin oxide as a reference, the flask contained a yield of about 40% dibutyl-bis(2-ethyl-hexyloxy)tin, 1% 1,1,3,3-tetrabutyl-1,3-bis(2-ethyl-hexyloxy)-distannoxane and 29% tributyltin(2-ethyl-hexyloxide). The dehydration rate in the reactor was 0.175 mol/Hr, which was lower than the value 3.44 mol/Hr calculated from expression (16).

reactant | dibutyltin oxide | C(CCC)[Sn](CCCC)=O
reactant | 2-ethyl-1-hexanol | C(C)C(CO)CCCC | C8H18O
reactant | 1,1,3,3-tetrabutyl-1,3-bis(2-ethyl-hexyloxy)-distannoxane | C(CCC)[Sn](O[Sn](OCC(CCCC)CC)(CCCC)CCCC)(OCC(CCCC)CC)CCCC
product | dibutyl-bis(2-ethyl-hexyloxy)tin | yield of about 40% | C(CCC)[Sn](OCC(CCCC)CC)(OCC(CCCC)CC)CCCC | InChI=1S/2C8H17O.2C4H9.Sn/c2*1-3-5-6-8(4-2)7-9;2*1-3-4-2;/h2*8H,3-7H2,1-2H3;2*1,3-4H2,2H3;/q2*-1;;;+2
